US07858621B2
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (110 mg, 0.393 mmol) was reacted with 3-fluorophenyl boronic acid (2 eq) to give 3-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid ethyl ester (70 mg, 53%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.393 mmol, 110 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C11H9ClF3NO2
reactant | 3-fluorophenyl boronic acid | 2 eq | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 3-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyridin-3-yl]-acrylic acid ethyl ester | 70 mg, 53% | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C1=CC(=CC=C1)F)=O | C17H13F4NO2
